US05889026
A mixture of 4-(4-methyl-benzyl)-piperidin-4-ol (0.35 g, 1.7 mmol), N-[4-(2-bromethoxy)-phenyl]-methansulfonamide (0.5 g, 1.7 mmol) and potassium carbonate (0.25 g, 1.8 mmol) in 2-butanone (20 ml) was refluxed overnight. It was cooled to room temperature, 30 ml of H2O were added and the organic phase was separated. The water phase was extracted two times with ethyl acetate. The organic phases were then pooled, dried with Na2SO4 and the solvent evaporated. The residue was chromatographed over silica gel (CH2Cl2 --MeOH, 95:5) to give a yellowish foam which was dissolved in ethanol (5 ml) and ethyl acetate (10 ml). 1.1 Equivalent of ethanolic HCl were added to give N-(4-{2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-ethoxy}-phenyl)-methanesulfonamide hydrochloride (0.32 g, 41%) as colorless solid, m.p. >75°-78° C. dec. and MS: m/e=419.5 (M+H+).

reactant | 4-(4-methyl-benzyl)-piperidin-4-ol | 1.7 mmol, 0.35 g | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
reactant | N-[4-(2-bromethoxy)-phenyl]-methansulfonamide | 1.7 mmol, 0.5 g | BrCCOC1=CC=C(C=C1)NS(=O)(=O)C | C9H12BrNO3S
reactant | potassium carbonate | 1.8 mmol, 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | 2-butanone | 20 ml | CC(CC)=O | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | H2O | 30 ml | O | H2O
product | N-(4-{2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-ethoxy}-phenyl)-methanesulfonamide hydrochloride | 0.32 g, 41% | Cl.OC1(CCN(CC1)CCOC1=CC=C(C=C1)NS(=O)(=O)C)CC1=CC=C(C=C1)C | InChI=1S/C22H30N2O4S.ClH/c1-18-3-5-19(6-4-18)17-22(25)11-13-24(14-12-22)15-16-28-21-9-7-20(8-10-21)23-29(2,26)27;/h3-10,23,25H,11-17H2,1-2H3;1H
